US04737514
A mixture of 6-cyano-2-dimethylaminothioxanthen-9-one 10,10-dioxide, 2.0 g (0.006 mol), ethylenediamine, 3 g, 0.05 mol, and sodium methoxide, 0.1 g (0.002 mol) in methanol, 30 ml, was refluxed for 48 hr. The mixture was poured into H2O and the resultant precipitate was dissolved in boiling in 1N HCl. This solution was cooled and the dihydrochloride salt was filtered and recrystallized from 95% ethanol to yield 2-dimethylamino-6-(2-imidazolin-2-yl)thioxanthen-9-one 10,10-dioxide dihydrochloride 0.3 g with m.p. 330°-335° C. (dec); TLC on silica gel (ethylacetate:ethanol:acetic acid/80:15:5), Rf =0.4.

reactant | 6-cyano-2-dimethylaminothioxanthen-9-one 10,10-dioxide | C(#N)C=1C=C2S(C=3C=CC(=CC3C(C2=CC1)=O)N(C)C)(=O)=O | C16H12N2O3S
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | H2O | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-dimethylamino-6-(2-imidazolin-2-yl)thioxanthen-9-one 10,10-dioxide dihydrochloride | 0.3 g | Cl.Cl.CN(C1=CC=2C(C3=CC=C(C=C3S(C2C=C1)(=O)=O)C=1NCCN1)=O)C | InChI=1S/C18H17N3O3S.2ClH/c1-21(2)12-4-6-15-14(10-12)17(22)13-5-3-11(18-19-7-8-20-18)9-16(13)25(15,23)24;;/h3-6,9-10H,7-8H2,1-2H3,(H,19,20);2*1H
